US07030139B2
5A: Ethyl 3-{4-[(diethylamino)carbonyl]-2-nitroanilino}propanoate.
Following general procedure 2B: A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (0.200 g, 0.833 mmol), ethyl 3-aminopropanoate (0.116 g, 0.757 mmol) in 80% aq. EtOH (5 mL) was heated at 90° C. overnight. After work-up, the crude product was purified by silica gel column chromatography (50% EtOAc/Hexanes to 100% EtOAc) to provide the title compound (0.162 g, 63%). 1H-NMR (CDCl3): δ 8.34 (br t, J=5.6 Hz, 1H), 8.29 (d, J=2.0 Hz, 1H), 7.58 (dd, J=8.4 Hz, J=2.0 Hz, 1H), 6.92 (d, J=9.2 Hz, 1H), 4.21 (q, J=7.2 Hz, 2H), 3.69 (q, J=6.4 Hz, 2H), 3.44 (br s, 4H), 2.72 (t, J=6.4 Hz, 2H), 1.30 (t, J=6.4 Hz, 3H), 1.22 (t, J=6.8 Hz, 6H). MS (ESI) (M+H)+=338.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 0.833 mmol, 0.200 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | ethyl 3-aminopropanoate | 0.757 mmol, 0.116 g | NCCC(=O)OCC | C5H11NO2
solvent | EtOH | 5 mL | CCO | C2H6O
product | Ethyl 3-{4-[(diethylamino)carbonyl]-2-nitroanilino}propanoate | 0.162 g, 63% | C(C)N(C(=O)C1=CC(=C(NCCC(=O)OCC)C=C1)[N+](=O)[O-])CC | C16H23N3O5
